US04518789
Synthesis of N-phenethyl phenyl-alpha-(o-acetylmandeloyloxy)acetamide
N-phenethyl mandelic amide 51 g is dissolved in 150 ml of pyridine, and o-acetylmandelic acid chloride 60 ml is added with stirring. Exothermic acylation takes place immediately and the stirring is continued for 5 hours. The reaction mixture is mixed with 1 liter of cold 0.2N HCL. The sticky solid thus formed is extracted with 300 ml of chloroform, washed with 400 ml of 5% sodium bicarbonate and is dried over anhydrous sodium sulfate. On evaporation of chloroform a syrupy product 98 g is obtained.

reactant | N-phenethyl mandelic amide | 51 g | C(CC1=CC=CC=C1)NC(C(O)C1=CC=CC=C1)=O | C16H17NO2
reactant | o-acetylmandelic acid chloride | 60 ml | C(C)(=O)C1=C(C(C(=O)Cl)O)C=CC=C1 | C10H9ClO3
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | N-phenethyl phenyl-alpha-(o-acetylmandeloyloxy)acetamide | C(CC1=CC=CC=C1)NC(C(OC(C(O)C1=C(C=CC=C1)C(C)=O)=O)C1=CC=CC=C1)=O | C26H25NO5
